### PR TITLE
[Merged by Bors] - feat: evaluate Chebyshev polynomials at a hyperbolic cosine

### PR DESCRIPTION
**Pull request by trivial1711**
We evaluate the Chebyshev polynomials at `cosh x`.

This is the same content as #19953, but I am reopening it because bors closed #19953 for an unknown reason.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev.lean [hunk 1]
```diff
@@ -95,6 +96,40 @@ evaluates on `2 * cos θ` to the value `sin ((n + 1) * θ) / sin θ`. -/
...
+  _ = cos (n * (θ * I))                 := T_complex_cos (θ * I) n
+  _ = cos (n * θ * I)                   := by rw [mul_assoc]
+  _ = cosh (n * θ)                      := cos_mul_I (n * θ)
+
+/-- The `n`-th Chebyshev polynomial of the second kind evaluates on `cosh θ` to the
+value `sinh ((n + 1) * θ) / sinh θ`. -/
+@[simp]
+theorem U_complex_cosh (n : ℤ) : (U ℂ n).eval (cosh θ) * sinh θ = sinh ((n + 1) * θ) := calc
+  (U ℂ n).eval (cosh θ) * sinh θ
+  _ = (U ℂ n).eval (cos (θ * I)) * sin (θ * I) * (-I)  := by simp [cos_mul_I, sin_mul_I, mul_assoc]
```
Comment (jcommelin) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev.lean:114]:
```suggestion
  _ = (U ℂ n).eval (cos (θ * I)) * sin (θ * I) * (-I)   := by simp [cos_mul_I, sin_mul_I, mul_assoc]
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
